US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 62 μL (0.55 mmol) of 2,3-dihydro-1H-indole. After purification by chromatography on silica (eluent dichloromethane/methanol 96/4) then trituration in methanol, 40 mg (20%) of 8-(2,3-dihydro-indole-1-sulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 2,3-dihydro-1H-indole | 0.55 mmol, 62 μL | N1CCC2=CC=CC=C12 | C8H9N
product | 8-(2,3-dihydro-indole-1-sulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 40 mg, 20% | N1(CCC2=CC=CC=C12)S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C19H15N3O3S.C3H6O2/c23-19-18-14(7-9-20-18)15-11-13(5-6-16(15)21-19)26(24,25)22-10-8-12-3-1-2-4-17(12)22;1-2-3(4)5/h1-7,9,11,20H,8,10H2,(H,21,23);2H2,1H3,(H,4,5)/p-1
